US09120823B2
A mixture of an iron powder (2.12 g), ethanol 6 ml), water 4 ml) and acetic acid 0.1 ml) was added dropwise a mixture of (3-nitro-5-trifluoromethylpyridin-2-yl)-(2,2,2-trifluoroethyl)amine (1.83 g) and ethanol (10 ml) at 70° C., and then the mixture was stirred at 70° C. for 1 hour. After allowing to cool, the cooled reaction mixture was filtrated. To the filtrate was added water, and then the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over sodium sulfate, and concentrated under reduced pressure to give N2-(2,2,2-trifluoroethyl)-5-trifluoromethylpyridin-2,3-diamine (1.59 g).

reactant | water | 4 ml | O | H2O
reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
reactant | (3-nitro-5-trifluoromethylpyridin-2-yl)-(2,2,2-trifluoroethyl)amine | 1.83 g | [N+](=O)([O-])C=1C(=NC=C(C1)C(F)(F)F)NCC(F)(F)F | C8H5F6N3O2
catalyst | iron | 2.12 g | [Fe] | Fe
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | N2-(2,2,2-trifluoroethyl)-5-trifluoromethylpyridin-2,3-diamine | 1.59 g | FC(CNC1=NC=C(C=C1N)C(F)(F)F)(F)F | C8H7F6N3
